US07655666B2
A suspension of N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (400 mg, 1.14 mmol) in ethyl formate (27.4 mL, 340.7 mmol) and THF (25 mL) was stirred at 60° C. for 16 h. Subsequently the solvent was evaporated and the residue dried in vacuo for 2 h. The crude product was purified by flash-master chromatography (DCM 100-90/MeOH 0-10, %-gradients) to yield N-(6-formylaminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide (316 mg, 0.831 mmol, 73%) as a light-yellow solid. 1H-NMR (DMSO-d6, 400 MHz) 3.17 ppm (s, 3H, SO2—CH3); LC-MS rt=2.32 min; MS: m/z 380.9 [M+H]+ Column: SunFireC18, 4.6*50 mn, 3.5 um; Positive MS Water/Acetonitrile 95:5 to 5:95 in 5 min, Flow: 1.5 mL/min

reactant | N-(6-aminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 1.14 mmol, 400 mg | NCC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C11H11F3N4O4S
reactant | ethyl formate | 340.7 mmol, 27.4 mL | C(=O)OCC | C3H6O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(6-formylaminomethyl-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl)-methanesulfonamide | 0.831 mmol, 316 mg, 73% | C(=O)NCC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C12H11F3N4O5S
